US08735378B2
To a solution of 1-(tert-butoxycarbonylamino)propan-2-yl methanesulfonate (10.0 g, 39.5 mmol) in DMF (100 mL) at RT was added NaN3 (7.7 g, 118.5 mmol). The reaction mixture was stirred at 85° C. for 24 h, cooled to RT, diluted with cold water (300 mL) and extracted with diethyl ether (3×300 mL). The combined organic layers were washed with saturated NaHCO3 (2×200 mL) and brine (200 mL), dried over MgSO4, filtered and concentrated under reduced pressure to afford tert-butyl 2-azidopropylcarbamate (7.0 g, 88.6%) as a light yellow oil. 1HNMR (CDCl3): δ3.6 (m, 1H, CH), 3.25 (m, 1H, CH2), 2.9 (m, 1H, CH2), 1.49 (s, 9H, CH3 1.2 (d, 3H, CH3).

reactant | 1-(tert-butoxycarbonylamino)propan-2-yl methanesulfonate | 39.5 mmol, 10.0 g | CS(=O)(=O)OC(CNC(=O)OC(C)(C)C)C | C9H19NO5S
reactant | NaN3 | 118.5 mmol, 7.7 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | tert-butyl 2-azidopropylcarbamate | 7.0 g, 88.6% | N(=[N+]=[N-])C(CNC(OC(C)(C)C)=O)C | C8H16N4O2
